US08119627B2
To a refluxing mixture of iron powder (1.91 g, 34.43 mmol) and ammonium chloride (230 mg, 4.30 mmol) in ethanol (45 μL) and water (8 mL) was added 4-(4-chlorophenoxy)-3-nitropyridine (AMR01116, 1.57 g, 6.26 mmol) and the resulting mixture was stirred at reflux for 1 h. After removal of the solvent, the residue was diluted in aqueous sodium hydrogen carbonate (40 mL) and extracted with DCM (3×20 mL). The organic layer was dried (MgSO4), filtered and evaporated. Flashmaster chromatography of the crude product using DCM/MeOH 9:1 as eluent gave 4-(4-chlorophenoxy)-pyridin-3-ylamin (1.03 g, 75%) as a white solid, mp 104-106° C.

reactant | ammonium chloride | 4.30 mmol, 230 mg | [Cl-].[NH4+]
reactant | 4-(4-chlorophenoxy)-3-nitropyridine | 6.26 mmol, 1.57 g | ClC1=CC=C(OC2=C(C=NC=C2)[N+](=O)[O-])C=C1 | C11H7ClN2O3
solvent | ethanol | 45 μL | C(C)O | C2H6O
solvent | water | 8 mL | O | H2O
catalyst | iron | 34.43 mmol, 1.91 g | [Fe] | Fe
product | 4-(4-chlorophenoxy)-pyridin-3-ylamin | 1.03 g, 75% | ClC1=CC=C(OC2=C(C=NC=C2)N)C=C1 | C11H9ClN2O
